US06727264B1
6-CHLORO-1-[4-(TRIFLUOROMETHYL)PHENYL]-1H-INDOLE:
Prepared by Procedure C and Scheme O using 6-chloro-1H-indole and 1-iodo-4-(trifluoromethyl)benzene ESMS m/e: 295.6 (M+H)+.

reactant | 6-chloro-1H-indole | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 1-iodo-4-(trifluoromethyl)benzene | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
product | 6-CHLORO-1-[4-(TRIFLUOROMETHYL)PHENYL]-1H-INDOLE | ClC1=CC=C2C=CN(C2=C1)C1=CC=C(C=C1)C(F)(F)F | C15H9ClF3N
